US08232278B2
Synthesis of 2-chloro-4-ethylamino-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine
was synthesized from 2,4-dichloro-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine and ethylamine in 99% yield, as a white solid which was characterised as follows: MS (m/z): 303 ([M+H]+, 100).

reactant | 2,4-dichloro-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)Cl | C13H6Cl2FN3
reactant | ethylamine | C(C)N | C2H7N
product | 2-chloro-4-ethylamino-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | 99% yield | ClC=1N=C(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)NCC | C15H12ClFN4
